US07696215B2
To a stirred slurry of 3-[6-{[(3S)-1-isopropylpyrrolidin-3-yl]oxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid (0.29 g) and DMF (0.05 ml) in methylene chloride (15 ml) at 0° C. was added thionyl chloride (0.15 ml). The resultant solution was stirred at room temperature for 21 hour. To this mixture was added 3-aminoisoxazole (0.316 ml) and the resultant solution was stirred for 18 hours. The reaction mixture was evaporated and the residue was dissolved in methanol and purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution. The fraction containing the product was further purified by column chromatography on an ion exchange column (isolute NH2 column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) eluting with MeOH. After evaporation and the residue was dissolved in ethyl acetate and triturated with ether, the resultant solid was removed by filtration and iso-hexane was added to the filtrate and the resulting solid was filtered and dried to give 3-[6-{[(3S)-1-isopropylpyrrolidin-3-yl]oxy}-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide as light tan solid (114 mg); NMR Spectrum: (DMSOd6) 1.02 (m, 6H), 1.76 (m, 1H), 2.18 (s, 3H), 2.27 (m, 1H), 2.40 (m, 2H), 2.85 (m, 3H), 5.01 (m, 1H), 7.04 (m, 1H), 7.49 (m, 2H), 7.60 (d, 1H), 7.72 (d, 1H), 8.07 (m, 2H), 8.21 (s, 1H), 11.45 (s, 1H); Mass Spectrum: M+H+ 474.

reactant | 3-[6-{[(3S)-1-isopropylpyrrolidin-3-yl]oxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | 0.29 g | C(C)(C)N1C[C@H](CC1)OC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C23H25N3O4
reactant | DMF | 0.05 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminoisoxazole | 0.316 ml | NC1=NOC=C1 | C3H4N2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-[6-{[(3S)-1-isopropylpyrrolidin-3-yl]oxy}-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | C(C)(C)N1C[C@H](CC1)OC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O | C26H27N5O4
